US08222416B2
To a −78° C. suspension of 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine (2.84 g, 11 mmol) in dry tetrahydrofuran (50 mL) was added n-butyllithium in n-hexane (1.6 M, 6.9 mL, 11 mmol) dropwise. The mixture was stirred at −78° C. for 30 min before adding 4-methylsulfanyl-3-trifluoromethyl-benzaldehyde (2.65 g, 12 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched by adding brine (20 mL). The mixture was extracted with ethyl acetate (300 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (20% ethyl acetate/hexanes) afforded (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-methanol as colorless oil (4.78 g, 91%): LC/MS m/e calcd for C23H20F3N2O4S2 [M+H]+ 479.06, observed 479.0;

reactant | 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine | 11 mmol, 2.84 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2 | C13H10N2O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 11 mmol, 1.6 M, 6.9 mL | CCCCCC | C6H14
reactant | 4-methylsulfanyl-3-trifluoromethyl-benzaldehyde | 12 mmol, 2.65 g | CSC1=C(C=C(C=O)C=C1)C(F)(F)F | C9H7F3OS
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-methanol | 4.78 g, 91% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(O)C2=CC(=C(C=C2)SC)C(F)(F)F | C22H17F3N2O3S2
